US07915271B2
Methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (10 mg, 0.014 mmol), aqueous potassium hydroxide (150 μL, 3M, 0.45 mmol) and ethanol (1 mL) were stirred at 20° C. for 2 hours and 30 minutes to complete the hydrolysis. The reaction mixture was acidified by HCl (aq., 1N) and then basified by sodium bicarbonate. Volatiles were removed under reduced pressure. The resulting mixture was worked up with ethyl acetate, washed with brine. The combined organic extracts were dried over Na2SO4, filtered, and concentrated to an oil. This oil was purified by preparative TLC on SiO2 (eluted with 50% EtOAc in hexanes) to afford 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid. LCMS calc.=697.15; found=698.03 (M+1)+. 1H NMR signals are doubled because of atropisomerism 1H NMR (CDCl3, 500 MHz), 8.16-8.11 (m, 2H), 7.83 (d, J=8.0 Hz, 1H), 7.74-7.69 (m, 2H), 7.69-7.65 (m, 2.5H), 7.65-7.61 (m, 1.5H), 7.57 (s, 1H), 7.48-7.42 (m, 2.0H), 7.11 (dd, J=8.8, 2.5 Hz, 1H), 5.57 (d, J=8.0 Hz, 0.5H), 5.17 (d, J=8.0 Hz, 0.5H), 4.97 (d, J=15.5 Hz, 0.5H), 4.93 (d, J=15.5 Hz, 0.5H), 4.16 (d, J=16 Hz, 0.5H), 3.95 (d, J=16.0 Hz, 0.5H), 3.88, 3.87 (s, 3H), 3.80-3.72 (m, 1H), 0.55 (d, J=6.5 Hz, 1.5H), 0.41 (d, J=6.5 Hz, 1.5H).

reactant | Methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.014 mmol, 10 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(=O)OC)C)(F)F | C35H26F9NO5
reactant | potassium hydroxide | 0.45 mmol, 3M, 150 μL | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(=O)O)C)(F)F | C34H24F9NO5
